US07304062B2
(3, 4-Dichlorophenyl)methylenehydrazinecarboxylic acid, 1,1-dimethylethyl ester
To a solution of t-butyl carbazate (4.99 g, 37.76 mmol) in ethyl acetate (10 mL) was added with vigorous stirring a solution of 3,4-dichlorobenzaldehyde (6.77 g, 38.6 mmol) in ethyl acetate (10 mL) followed by hexanes (40 mL). Crystallization occurred and the resulting slurry was stirred at rt for 15 min, then cooled to 0° C. and held at that temperature for 45 min. The solids were filtered, rinsed with cold hexanes and dried in vacuo at 60° C. to afford the title compound as a solid (10.10 g, 92.4%): mp 173.8-174.4° C. (dec); 1H NMR (DMSO-d6) δ 11.16 (br s, 1 H), 7.79 (s, 1 H), 7.62 (d, 1 H, J=1.8 Hz), 7.57 (d, 1 H, J=8.5 Hz), 7.55 (m, 1 H), 1.44 (s, 9 H); 13C NMR (DMSO-d6) δ 152.9, 141.1, 136.1, 132.3, 132.1, 131.6, 128.6, 127.0, 80.4, 28.7; IR (KBr mull) 3358, 3010, 2983, 1736, 1508, 1475 cm−1. A portion was recrystallized (ethyl acetate) for analysis. Anal. Calcd. for C12H14Cl2N2O2: C, 49.84; H, 4.88; Cl, 24.52; N, 9.69. Found: C, 49.59; H, 4.71; Cl, 24.43; N, 9.57.

reactant | t-butyl carbazate | 37.76 mmol, 4.99 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | 3,4-dichlorobenzaldehyde | 38.6 mmol, 6.77 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (3, 4-Dichlorophenyl)methylenehydrazinecarboxylic acid, 1,1-dimethylethyl ester | 10.10 g, 92.4% | ClC=1C=C(C=CC1Cl)C=NNC(=O)OC(C)(C)C | C12H14Cl2N2O2
